US09024027B2
A mixture of 5-nitroindoline-2,3-dione (305 mg, 1.587 mmol), 2,2-dimethylpropane-1,3-diol (165 mg, 1.587 mmol) and p-toluenesulfonic acid monohydrate (catalytic amount) in cyclohexane (9 ml) was stirred at reflux temperature (removing water by a Dean-Stark apparatus) for 6 hours. The reaction was cooled to room temperature and the solid was recovered by filtration and washed with petroleum ether, affording 5,5-dimethyl-5′-nitrospiro[[1,3]dioxane-2,3′-indolin]-2′-one (481 mg). that was used as such in the following step. MS/ESI+ 279.0 [MH]+.

reactant | 5-nitroindoline-2,3-dione | 1.587 mmol, 305 mg | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=O | C8H4N2O4
reactant | 2,2-dimethylpropane-1,3-diol | 1.587 mmol, 165 mg | CC(CO)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | cyclohexane | 9 ml | C1CCCCC1 | C6H12
product | 5,5-dimethyl-5′-nitrospiro[[1,3]dioxane-2,3′-indolin]-2′-one | 481 mg | CC1(COC2(C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)OC1)C | C13H14N2O5
